US04454147
To 125 ml of stirred trifluoroacetic acid at room temperature was added 4-chlorobenzonitrile (50.0 g, 0.365 mole), followed by the slow addition of thiosemicarbazide (35.0 g, 0.386 mole). Upon complete addition, the reaction mixture was heated under reflux for 60 hours. The cooled reaction mixture was poured into a mixture of 150 ml of ice and 150 ml of water, then made basic by addition of 150 ml of concentrated ammonium hydroxide. After standing for 16 hours, a crystalline solid was isolated from the mixture by filtration. The solid was recrystallized from 900 ml of ethanol to give 2-amino-5-(4-chlorophenyl)-1,3,4-thiadiazole (27.5 g, mp 227°-229° C.).

reactant | trifluoroacetic acid | 125 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-chlorobenzonitrile | 0.365 mole, 50.0 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | thiosemicarbazide | 0.386 mole, 35.0 g | NNC(=S)N | CH5N3S
reactant | ammonium hydroxide | 150 ml | [OH-].[NH4+]
solvent | water | 150 ml | O | H2O
product | 2-amino-5-(4-chlorophenyl)-1,3,4-thiadiazole | 27.5 g | NC=1SC(=NN1)C1=CC=C(C=C1)Cl | C8H6ClN3S
